US04826818
4.46 g (0.05 mole) of L-alanine was taken, 11.4 g (0.06 mole) of p-toluenesulfonic acid hydrate was taken, and 11.79 g (0.055 mole) of myristyl alcohol was taken as an alcohol. After 200 ml of benzene was added thereto as a solvent, these materials were stirred and mixed well. The resulting reaction mixture was heated at the reflux temperature of benzene to carry out the esterification reaction. In this case, water was formed with the progress of the esterification reaction and released in the form of an azeotropic mixture with benzene, which was continuously removed from the reaction system. Thus, the reaction was completed in about 7-15 hours. After being cooled to room temperature, the reaction mixture was poured into a separating funnel and treated with 200 ml of a mixture of 0.2N NaOH and 3M NaCl solutions. This treatment was repeated three times. Thereafter, the benzene layer was isolated and washed thoroughly with water. After washing with water, the benzene layer was isolated and dried overnight over anhydrous sodium sulfate. After drying, the benzene layer was filtered and the resulting benzene solution was evaporated to remove the solvent. Thus, there was obtained 13.7 g (96% yield) of purified free L-alanine myristyl ester in the form of an oily material.

reactant | L-alanine | 0.05 mole, 4.46 g | N[C@@H](C)C(=O)O | C3H7NO2
reactant | p-toluenesulfonic acid hydrate | 0.06 mole, 11.4 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | myristyl alcohol | 0.055 mole, 11.79 g | C(CCCCCCCCCCCCC)O | C14H30O
solvent | benzene | C1=CC=CC=C1 | C6H6
solvent | water | O | H2O
solvent | benzene | 200 ml | C1=CC=CC=C1 | C6H6
product | L-alanine myristyl ester | 13.7 g, 96% yield | C(CCCCCCCCCCCCC)OC([C@@H](N)C)=O | C17H35NO2
